US08624034B2
Step G) (2R)-4-[5-fluoro-4-{4-[(trans-4-hydroxycyclohexyl)methoxy]phenyl}-2-oxopyridin-1(2H)-yl]-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide
Hydrochloric acid (4.0 M in 1,4-dioxane, 1.7 mL, 6.63 mmol) was added to a solution of (2R)-4-[5-fluoro-2-oxo-4-(4-{[trans-4-(tetrahydro-2H-pyran-2-yloxy)cyclohexyl]methoxy}phenyl)-pyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (450 mg, 0.66 mmol) in 1,4-dioxane:DCM:water (2:2:1, 5 mL) at room temperature. After 1 h, the reaction was concentrated under reduced pressure. The crude residue was triturated in ethanol (10 mL) overnight. The solid was collected via filtration, washed with ethanol (5 mL), and dried under reduced pressure to afford the title compound as a white solid (110 mg, 33%). MS (LCMS) m/z 511.1 (M+1). 1H NMR (400 MHz, DMSO-d6) δ ppm 0.97-1.19 (m, 4H) 1.54 (s, 3H) 1.58-1.72 (m, 1H) 1.72-1.89 (m, 4H) 2.04-2.23 (m, 1H) 2.41 (m, 1H) 3.08 (s, 3H) 3.18-3.40 (m, 1H) 3.65-3.84 (m, 3H) 4.01 (td, J=11.61, 4.88 Hz, 1H) 4.49 (br. s., 1H) 6.45 (d, J=7.81 Hz, 1H) 6.94-7.06 (m, 2H) 7.36-7.54 (m, 2H) 7.96 (d, J=6.83 Hz, 1H) 9.21 (s, 1H) 11.07 (s, 1H) 11.12 (s, 1H).

reactant | Hydrochloric acid | 6.63 mmol, 4.0 M, 1.7 mL | Cl | ClH
reactant | (2R)-4-[5-fluoro-2-oxo-4-(4-{[trans-4-(tetrahydro-2H-pyran-2-yloxy)cyclohexyl]methoxy}phenyl)-pyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 0.66 mmol, 450 mg | FC=1C(=CC(N(C1)CC[C@](C(=O)NOC1OCCCC1)(S(=O)(=O)C)C)=O)C1=CC=C(C=C1)OC[C@@H]1CC[C@H](CC1)OC1OCCCC1 | C34H47FN2O9S
solvent | 1,4-dioxane DCM water | 5 mL | O1CCOCC1.C(Cl)Cl.O
product | (2R)-4-[5-fluoro-4-{4-[(trans-4-hydroxycyclohexyl)methoxy]phenyl}-2-oxopyridin-1(2H)-yl]-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide | 110 mg, 33% | FC=1C(=CC(N(C1)CC[C@](C(=O)NO)(S(=O)(=O)C)C)=O)C1=CC=C(C=C1)OC[C@@H]1CC[C@H](CC1)O | C24H31FN2O7S
